* PF-A1: 2025 APEC Fig.1 one-module, three-phase boundary-control test
* This is NOT a startup test.  Initial 8 V / 4 V / 1 V are the analytical
* periodic-state initialization implied by a 12-to-1, 3-phase SCB.
* Fixed paper boundary: 12 V, 1 V, 67 W/module, 0.5 MHz, 22 nH.
* Control target: low-side turn-off at -5% of the paper's 50 A peak.

.param VIN=12 VO=1 PMOD=67 FSW=.5Meg T={1/FSW}
.param NP=3 D_EQ={NP*VO/VIN} TON={D_EQ*T} IPK_PAPER=50 KNEG=.05 INEG={KNEG*IPK_PAPER}
.param LPH=22n RL=.5m RONH=7m RONL=3.5m
* GS61008T datasheet typical Coss=250 pF.  Two parallel low-side devices.
.param COSS1=250p COSS2=500p CSNUB=0
.step param CSNUB list 0 250p 500p 1n 2n
* UNRESOLVED paper variables: incomplete capacitor part numbers.
* Values below are sensitivity-baseline values, not claimed prototype values.
.param CFLY_TEST=120u COUT_TEST=470u ESRFLY_TEST=1m ESROUT_TEST=.5m
.param RLOAD={VO*VO/PMOD} VG=5 VZL=.15

VINPUT vin 0 {VIN}

* Paper Eq.(17) fixes high-side on-time.  Three phase clocks are T/3 apart.
BGH1 gh1 0 V=if(mod(time+T,T)<TON,VG,0)
BGH2 gh2 0 V=if(mod(time+T-T/3,T)<TON,VG,0)
BGH3 gh3 0 V=if(mod(time+T-2*T/3,T)<TON,VG,0)

* Paper Mode 2->4 abstraction:
* - high side forces low-side controller OFF;
* - low side may latch ON only after its switch-node voltage has commutated
*   close to zero and positive inductor current is present;
* - hysteresis keeps it ON until I(L) falls through -2.5 A (5% of 50 A).
* The hysteretic switch is a numerical state realization of the published
* boundary rule; it does not introduce a new current target.
BZC1 zc1 0 V=if(V(gh1)>2.5,-20,if(V(sw1)<VZL,I(L1),-20))
BZC2 zc2 0 V=if(V(gh2)>2.5,-20,if(V(sw2)<VZL,I(L2),-20))
BZC3 zc3 0 V=if(V(gh3)>2.5,-20,if(V(sw3)<VZL,I(L3),-20))

* 2025 Fig.1 power stage.
SH1 vin a1 gh1 0 SWH
CS1 a1 sw1 {CFLY_TEST} Rser={ESRFLY_TEST} IC=8
SL1 sw1 0 zc1 0 SWZC off
L1 sw1 l1o {LPH} Rser=0
RL1 l1o out {RL}

SH2 a1 a2 gh2 0 SWH
CS2 a2 sw2 {CFLY_TEST} Rser={ESRFLY_TEST} IC=4
SL2 sw2 0 zc2 0 SWZC off
L2 sw2 l2o {LPH} Rser=0
RL2 l2o out {RL}

SH3 a2 sw3 gh3 0 SWH
SL3 sw3 0 zc3 0 SWZC off
L3 sw3 l3o {LPH} Rser=0
RL3 l3o out {RL}

* GaN reverse-conduction path: zero Qrr; Vf is only a numerical clamp here.
DH1 a1 vin DGAN
DL1 0 sw1 DGAN
DH2 a2 a1 DGAN
DL2 0 sw2 DGAN
DH3 sw3 a2 DGAN
DL3 0 sw3 DGAN

CH1 vin a1 {COSS1+CSNUB}
CL1 sw1 0 {COSS2+CSNUB}
CH2 a1 a2 {COSS1+CSNUB}
CL2 sw2 0 {COSS2+CSNUB}
CH3 a2 sw3 {COSS1+CSNUB}
CL3 sw3 0 {COSS2+CSNUB}

.model SWH SW(Ron={RONH} Roff=100Meg Vt=2.5 Vh=.1)
* rising threshold +5 A, falling threshold -2.5 A
.model SWZC SW(Ron={RONL} Roff=100Meg Vt=1.25 Vh=3.75)
.model DGAN D(Ron=3m Roff=100Meg Vfwd=1.5)

COUT out 0 {COUT_TEST} Rser={ESROUT_TEST} IC=1
RLOAD out 0 {RLOAD}

.ic I(L1)=0 I(L2)=0 I(L3)=0
.options plotwinsize=500 reltol=.001 abstol=1u chgtol=1e-15
.tran 0 100u 0 .5n UIC

.meas tran VOUT_AVG AVG V(out) FROM 90u TO 100u
.meas tran IL1_MAX MAX I(L1) FROM 90u TO 100u
.meas tran IL1_MIN MIN I(L1) FROM 90u TO 100u
.meas tran IL1_AVG AVG I(L1) FROM 90u TO 100u
.meas tran IL2_AVG AVG I(L2) FROM 90u TO 100u
.meas tran IL3_AVG AVG I(L3) FROM 90u TO 100u
.meas tran VC1_AVG AVG V(a1,sw1) FROM 90u TO 100u
.meas tran VC2_AVG AVG V(a2,sw2) FROM 90u TO 100u
.meas tran VC1_PP PP V(a1,sw1) FROM 90u TO 100u
.meas tran VC2_PP PP V(a2,sw2) FROM 90u TO 100u
.meas tran ILOAD_AVG AVG I(RLOAD) FROM 90u TO 100u
.meas tran TNEG_LAST WHEN I(L1)=-INEG FALL=LAST
.meas tran VDSH1_AT_NEG FIND V(vin,a1) WHEN I(L1)=-INEG FALL=LAST
.meas tran VDSH1_PREON FIND V(vin,a1) AT=99.999u
.meas tran VDSH1_MIN MIN V(vin,a1) FROM 98u TO 100u
.meas tran VDSH1_MAX MAX V(vin,a1) FROM 98u TO 100u

.save V(out) V(a1) V(a2) V(sw1) V(sw2) V(sw3) V(gh1) V(zc1) V(vin,a1) V(a1,a2) V(a2,sw3) I(L1) I(L2) I(L3) I(RLOAD)
.end
